US07371869B2
To a mechanically stirring solution of (R)-tert-butoxycarbonylamino-(4-hydoxy-phenyl)-acetic acid (37.41 g, 140 mmol) (pepared according to the procedure of Salituro, G. M.; Townsend, C. A. J. Am. Chem. Soc. 1990, 112, 760) in N,N-dimethylformamide (750 mL) cooled in a dry ice/acetone bath was added sodium hydride (60% suspension in mineral oil) (12.32 g, 308 mmol) in small portions. The mixture was stirred while cooling in a dry ice/acetone bath for 30 minutes, then a solution of bromoethyl methyl ether (19.73 mL, 210 mmol) in N,N-dimethylformamide (200 mL) was added dropwise. The reaction mixture was allowed to warm to room temperature and stirred for 24 hours. The reaction mixture was diluted with ice-water and extracted with ethyl acetate. The aqueous layer was cooled in an ice bath and acidified using concentrated aqueous hydrochloric acid to pH=1. The resulting mixture was extracted with ethyl acetate (3×), the organic extracts were combined, washed with water, brine and dried over sodium sulfate. Evaporation of the solvents gave (R)-tert-butoxycarbonylamino-{4-[2-(methoxy)-ethoxy]-phenyl}-acetic acid as a white solid (35.7 g, 78%).

reactant | (R)-tert-butoxycarbonylamino-(4-hydoxy-phenyl)-acetic acid | 140 mmol, 37.41 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)C1=CC=C(C=C1)O | C13H17NO5
reactant | sodium hydride | 308 mmol, 12.32 g | [H-].[Na+]
reactant | bromoethyl methyl ether | 210 mmol, 19.73 mL | COCCBr | C3H7BrO
solvent | N,N-dimethylformamide | 750 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | (R)-tert-butoxycarbonylamino-{4-[2-(methoxy)-ethoxy]-phenyl}-acetic acid | 35.7 g, 78% | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)C1=CC=C(C=C1)OCCOC | C16H23NO6
